US07459451B2
A mixture of ethyl (2Z)-2-benzoyl-3-(6-chloro-3-pyridyl)acrylate (2.018 g) and 5-amino-1-ethylpyrazole (710 mg) in N-methylpyrrolidone (15 ml) was heated at 140° C. for 3.5 hours. Another 5-amino-1-ethylpyrazole (200 mg) was added and the mixture was heated at 140° C. for 2 hours. After cooling, 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (1.45 g) was added and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into saturated aqueous NaHCO3 and extracted with EtOAc. The organic layer was washed with saturated aqueous NaHCO3 (×4), brine, dried over anhydrous MgSO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel eluting with a mixture of EtOAc and n-hexane (1:7) to give ethyl 4-(6-chloro-3-pyridyl)-1-ethyl-6-phenyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate (2.024 g) as a brown oil.

reactant | ethyl (2Z)-2-benzoyl-3-(6-chloro-3-pyridyl)acrylate | 2.018 g | C(C1=CC=CC=C1)(=O)/C(/C(=O)OCC)=C/C=1C=NC(=CC1)Cl | C17H14ClNO3
reactant | 5-amino-1-ethylpyrazole | 710 mg | NC1=CC=NN1CC | C5H9N3
reactant | 5-amino-1-ethylpyrazole | 200 mg | NC1=CC=NN1CC | C5H9N3
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 1.45 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | N-methylpyrrolidone | 15 ml | CN1C(CCC1)=O | C5H9NO
product | ethyl 4-(6-chloro-3-pyridyl)-1-ethyl-6-phenyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 2.024 g | ClC1=CC=C(C=N1)C1=C2C(=NC(=C1C(=O)OCC)C1=CC=CC=C1)N(N=C2)CC | C22H19ClN4O2
